US03968227
A solution of N-[2-((5-methyl-4-imidazolyl)methylthio) ethyl]thiourea (2.29 g) and methyl iodide (1.56 g) in methanol (5 ml) was kept at room temperature for 18 hours affording S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium iodide (2.3 g), m.p. 128°-131°. The iodide was converted into the corresponding sulphate by ion-exchange on an ion-exchange resin (IRA 401) in the sulphate form.

reactant | N-[2-((5-methyl-4-imidazolyl)methylthio) ethyl]thiourea | 2.29 g | CC1=C(N=CN1)CSCCNC(=S)N | C8H14N4S2
reactant | methyl iodide | 1.56 g | CI | CH3I
solvent | methanol | 5 ml | CO | CH4O
product | S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium iodide | 2.3 g | [I-].CSC(=[NH+]CCSCC=1N=CNC1C)N | InChI=1S/C9H16N4S2.HI/c1-7-8(13-6-12-7)5-15-4-3-11-9(10)14-2;/h6H,3-5H2,1-2H3,(H2,10,11)(H,12,13);1H
